US09193724B2
Step B. 6-fluoro-2-(4-methyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine
Lead tetra acetate (0.0693 g, 0.000156 mol) was added to a solution of N-(5-fluoro-pyridin-2-yl)-4-methyl-nicotinamidine (22-1; 0.360 g, crude 0.000156 mol) in toluene (10 mL) in a 40 mL microwave vial at RT. The reaction mixture heated to 150° C. for 1.5 h under microwave irradiation. The reaction mixture cooled to RT, diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulphate and concentrated under vacuum to afford the crude product, which was purified by silica gel column chromatography to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ 9.40-9.38 (t, J=8 Hz, 1H), 9.12 (s, 1H), 8.51-8.50 (d, J=4 Hz, 1H), 8.00-7.97 (m, J=12 Hz, 1H), 7.75-7.80 (t, J=20 Hz, 1H), 7.40-7.39 (d, J=4 Hz, 1H), 2.68 (s, 3H). MS (M+1): 229.1.

reactant | N-(5-fluoro-pyridin-2-yl)-4-methyl-nicotinamidine | FC=1C=CC(=NC1)NC(C1=CN=CC=C1C)=N | C12H11FN4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | 6-fluoro-2-(4-methyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine | FC=1C=CC=2N(C1)N=C(N2)C=2C=NC=CC2C | C12H9FN4
